US04032323
A solution of isopropylamine in ethanol (33% w/v; 30 ml.) was added, cautiously with swirling, to 4-ethoxycarbonyl-3-methyl-5-phenoxycarbonylaminoisothiazole (prepared according to the method of Goerdeler and Horn, Chemische Berichte, 1963, 96, 1551; 30 g.). When the initial exothermic reaction had subsided the mixture was heated at reflux for 10 minutes, cooled and filtered. The solid was washed with water, and dried to give 1-(4-ethoxycarbonyl-3-methylisothiazol-5-yl)-3-isopropylurea (20.8 g.), m.p. 175°-176° C.

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | 4-ethoxycarbonyl-3-methyl-5-phenoxycarbonylaminoisothiazole | C(C)OC(=O)C=1C(=NSC1NC(=O)OC1=CC=CC=C1)C | C14H14N2O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-ethoxycarbonyl-3-methylisothiazol-5-yl)-3-isopropylurea | 20.8 g | C(C)OC(=O)C=1C(=NSC1NC(=O)NC(C)C)C | C11H17N3O3S
